US04007282
3,3-Bis(4'-hydroxy-3',5'-dimethyl-phenyl)butanoic acid dodecyl ester
In a four-necked flask, 122 g of 2,6-dimethyl-phenol (1 mol), 135 g of acetoacetic acid dodecyl ester (0.5 mol) and 0.7 g of ethyl mercaptan were mixed and at 10° C gaseous hydrogen chloride was passed through this mixture for 8 hours. The mixture was stirred for 24 hours at 10° C, then toluene was added and the resulting water was distilled off in an azeotropic mixture. Upon cooling, the 3,3-bis(4'-hydroxy-3' ,5'-dimethylphenyl)butanoic acid dodecyl ester precipitated from the toluene solution in crystals.

reactant | 2,6-dimethyl-phenol | 1 mol, 122 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | acetoacetic acid dodecyl ester | 0.5 mol, 135 g | C(CCCCCCCCCCC)OC(CC(=O)C)=O | C16H30O3
reactant | ethyl mercaptan | 0.7 g | C(C)S | C2H6S
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,3-Bis(4'-hydroxy-3',5'-dimethyl-phenyl)butanoic acid dodecyl ester | C(CCCCCCCCCCC)OC(CC(C)(C1=CC(=C(C(=C1)C)O)C)C1=CC(=C(C(=C1)C)O)C)=O | C32H48O4
